US05250517
1 g (1.7 mmol) of t-butyl 4-[(S)-2-[[(1S,2S,4S)-1-benzyl-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-(1-t-butoxyformamido)ethyl]imidazole-1-carboxylate were dissolved in 7 ml of 5N hydrogen chloride in dioxane and subsequently stirred at room temperature for 2 hours. Thereafter, the reaction mixture was poured into sodium carbonate solution and extracted with ethyl acetate. The organic extract was dried and evaporated and the residue was chromatographed on silica gel with a 3:1 mixture of methylene chloride and methanol, to obtain 340 mg (52%) of (S)-α-amino-N-[(1S,2S,4S)-1-benzyl-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propion-amide as a foam, MS; 385 (M+H)+.

reactant | t-butyl 4-[(S)-2-[[(1S,2S,4S)-1-benzyl-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-(1-t-butoxyformamido)ethyl]imidazole-1-carboxylate | 1.7 mmol, 1 g | C(C1=CC=CC=C1)[C@@H]([C@H](C[C@H](C=C)C(C)C)O)NC(=O)[C@H](CC=1N=CN(C1)C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C32H48N4O6
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrogen chloride | 5N, 7 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-α-amino-N-[(1S,2S,4S)-1-benzyl-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propion-amide | 340 mg, 52% | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1=CC=CC=C1)CC=1N=CNC1 | C22H32N4O2
